US07368578B2
To a mixture of (4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-(methoxymethoxy)phenyl)methanol (8.50 g), tributylphosphine (9.95 g), ethyl 1-benzyl-3-hydroxy-1H-pyrazole-4-carboxylate (6.06 g) and tetrahydrofuran (300 mL) was added 1,1′-(azodicarbonyl)dipiperidine (12.41 g) at room temperature, and the mixture was stirred for 2 hrs. The precipitated crystals were removed by filtration and the filtrate was concentrated. The residue was subjected to silica gel column chromatography to give ethyl 1-benzyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-(methoxymethoxy)benzyl)oxy]-1H-pyrazole-4-carboxylate as colorless crystals (12.42 g, yield 88%) from a fraction eluted with ethyl acetate-hexane (1:2, v/v). Recrystallization from ethyl acetate-hexane gave colorless needle crystals. melting point: 120-121° C.

reactant | (4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-(methoxymethoxy)phenyl)methanol | 8.50 g | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(C=C1)CO)OCOC)C | C18H19NO6
reactant | tributylphosphine | 9.95 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | ethyl 1-benzyl-3-hydroxy-1H-pyrazole-4-carboxylate | 6.06 g | C(C1=CC=CC=C1)N1N=C(C(=C1)C(=O)OCC)O | C13H14N2O3
reactant | 1,1′-(azodicarbonyl)dipiperidine | 12.41 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | ethyl 1-benzyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-(methoxymethoxy)benzyl)oxy]-1H-pyrazole-4-carboxylate | 12.42 g, yield 88% | C(C1=CC=CC=C1)N1N=C(C(=C1)C(=O)OCC)OCC1=CC(=C(C=C1)OCC=1N=C(OC1C)C=1OC=CC1)OCOC | C31H31N3O8
